datasets/10k_Mayr_OG.csv
SMILES Labelled
C[N:10](C)[NH:61][CH:62]=[O:63].[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>C[N+:10](C)([CH2:20][C:31]12C3[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]32(C#[O+])(C#[O+])C#[O+])[NH:61][CH:62]=[O:63] 10=20
"C[N:43]1[C:22](=[O:23])[CH:21]=[CH:20][C:31]1=[O:32].O=[N+]([O-])C1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1>>C[N:43]1[C:22]([O-:23])=[CH:21][CH:20]([CH:10](C2=CC=C([N+](=O)[O-])C=C2)[C:11](=[N+:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[C:31]1=[O:32] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[O-:10][C:61]#[N:62]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([O:10][C:61]#[N:62])([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CC[O:62]/[C:11](=[CH:10]/[P+:71](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[O-:12].N#C[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>CC[O:62][C:11]([CH:10]([CH:20]([CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]1)[P+:71](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[O:62][C:11]([H:10])([C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)[O:12]1.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl>>C1C[O:62][C:11]([C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)=[O+:12]1.Cl[C:20]1([H:10])[C:21](Cl)=[C:22]([O-:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[C:22](=[O:23])[CH:21]=[CH:20]C1.CCCC[P:10](CCCC)CCCC>>CCCC[P+:10](CCCC)(CCCC)[CH:20]1CCCC[C:22]([O-:23])=[CH:21]1 10=20;20,21=21,22;22,23=23"
"CC[N:82]1[C:11]([O-:12])=[CH:10][C:61](=[O:62])[N:82](CC)[C:73]1=[S:74].COC12C3C[CH:20]4C5C1[Fe-2:21]3524(C#[O+])(C#[O+])C#[O+]>>CC[N:82]1[C:11](=[O:12])[CH:10]([CH:20]2CC3C4(OC)C5C2[Fe-3:21]354(C#[O+])(C#[O+])C#[O+])[C:61](=[O:62])[N:82](CC)[C:73]1=[S:74] 10,11=10,20;12=11,12;20,21=21"
"CC1=CC=[C:10]([B-:11]2(C3=CC=CC=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=CC=C2)=[O+:12]1.CC1=CC=[C:10]([CH:20]([O:21]C)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]2)S1 10,11=10,20;12=11,12;20,21=21"
"C1C[CH:20]=[CH:21][C:22](=[O:23])C1.C[Si:63](C)(C)[O:12][C:11](=[CH2:10])[CH:72]=[CH2:73]>>C[Si:63](C)(C)[O+:12]=[C:11]([CH2:10][CH:20]1CCC[C:22]([O-:23])=[CH:21]1)[CH:72]=[CH2:73] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N:10]2.C1COC2(CC[C:20](=[O:21])CC2)O1>>C1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N+:10]2[C:20]1([O-:21])CCC2(CC1)OCCO2 10=20;20,21=21"
"CC[O:33][C:31]([C:20]1=[C:21](/[N:22]=[N:23]/[C:24](N)=[O:25])CCC1)=[O:32].CC[O:92][C:61]([CH-:10]/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[C:76](Cl)[CH:85]=[CH:84]1)=[O:62]>>CC[O:33][C:31]([C:20]1([CH:10]([C:61](=[O:62])[O:92]CC)/[N:71]=[CH:72]/[C:73]2=[CH:74][CH:75]=[C:76](Cl)[CH:85]=[CH:84]2)CCC[C:21]1=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[CH:20]1C[Fe-2:21]12345(C#[O+])(C#[O+])C1C2C3C4C15.[O+]#C[Mo-3:11]1234(C#[O+])([P+](C5=CC=CC=C5)(C5=CC=CC=C5)C5=CC=CC=C5)([H:10])C5C1C2C3C54>>C[CH:20](C[Fe-3:21]1234(C#[O+])(C#[O+])C5C1C2C3C54)[H:10].[O+]#C[Mo-2:11]1234(C#[O+])([P+](C5=CC=CC=C5)(C5=CC=CC=C5)C5=CC=CC=C5)C5C1C2C3C54 10,11=10,20;20,21=21"
"CC[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]CC)=[O:23].CC[O:62]/[C:11](=[CH:10]/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[C:76](Cl)[CH:85]=[CH:84]1)[O-:12]>>CC[O:33][C:22](=[N:21][N:20]([CH:10]([C:11](=[O:12])[O:62]CC)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[C:76](Cl)[CH:85]=[CH:84]1)[C:41](=[O:42])[O:43]CC)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[N:62]2CC[NH:12][C:11]2=[N:10]1.CC[O:33][C:22]([CH:21]=[CH2:20])=[O:23]>>CC[O:33][C:22](=[CH:21][CH2:20][N:10]1CC[N:62]2CC[NH+:12]=[C:11]12)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=C([N+](=O)[O-])C=C2)=[C:11]([O-:12])[O:82]1.C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1>>CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=C([N+](=O)[O-])C=C2)([CH:20]([O:21]C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)[C:11](=[O:12])[O:82]1 10,11=10,20;12=11,12;20,21=21"
"C1CCC([P:10](C2CCCCC2)C2CCCCC2)CC1.C1CC[C:22](=[O:23])[CH:21]=[CH:20]C1>>C1CCC([P+:10](C2CCCCC2)(C2CCCCC2)[CH:20]2CCCC[C:22]([O-:23])=[CH:21]2)CC1 10=20;20,21=21,22;22,23=23"
CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[C:71]1=[N:72][CH:62]=[CH:61][N-:10]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N:10]2[CH:61]=[CH:62][N:72]=[C:71]2C)([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
